US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid Methylamide
4-[4-(2-Aminoethyl)anilino]-N-methyl-1-piperidinecarboxamide formate (0.322 g, 1.0 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.364 g, 0.90 mmol) according to Procedure G to give the title compound (eluant: 20:1 chloroform-methanol) (0.1 g, 0.15 mmol).

reactant | 4-[4-(2-Aminoethyl)anilino]-N-methyl-1-piperidinecarboxamide formate | 1.0 mmol, 0.322 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)C(=O)NC)C=C1
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 0.90 mmol, 0.364 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid Methylamide | 0.15 mmol, 0.1 g | CNC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O | C24H34N4O4
